US07598423B2
Synthesis of 2-fluoro-5-formyl-benzonitrile
Add freshly ground magnesium (1.72 g, 70.7 mmol) to a solution of 5-chloro-2-fluoro-benzonitrile (10.0 g, 64.3 mmol) and N,N-dimethylformamide (5.64 g, 77.1 mmol) in tetrahydrofuran (0.2 M). Add iodine (0.816 g, 3.21 mmol). Heat the solution at reflux for 6 h. Quench the reaction with 1N hydrochloric acid and extract the mixture with ethyl acetate (3×). Dry the combined organic layers with sodium sulfate and concentrate to afford the title compound (9.20 g, 61.7 mmol, 96%): 1H NMR (CDCl3, 400 MHz) δ 7.15 (m, 1H), 7.59 (m, 1H), 7.66 (m, 1H), 10.4 (s, 1H).

reactant | magnesium | 70.7 mmol, 1.72 g | [Mg] | Mg
reactant | 5-chloro-2-fluoro-benzonitrile | 64.3 mmol, 10.0 g | ClC=1C=CC(=C(C#N)C1)F | C7H3ClFN
reactant | N,N-dimethylformamide | 77.1 mmol, 5.64 g | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 0.2 M | O1CCCC1 | C4H8O
catalyst | iodine | 3.21 mmol, 0.816 g | II | I2
product | 2-fluoro-5-formyl-benzonitrile | 61.7 mmol, 9.20 g, 96% | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
